US04914112
To 3-dimethylamino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole (1.0 g, 3.11 mmol) in ethanol (10 ml) were added hydroxylamine hydrochloride (0.25 g, 3.45 mmol) in water (2 ml) and sodium hydroxide (0.40 g, 9.5 mmol) in water (2 ml). After reflux with stirring for 24 h, the mixture was poured upon ice water and extracted with ethyl acetate. The ethyl acetate extracts were washed with saturated NaCl aq. dried with anhydrous magnesium salfate, and evaporated under redused pressure to a residue, which was chromatographed to afford 3-dimethylamino-5-(1-(3-(α-hydroxyiminobenzyl)phenyl)ethyl)-1,2,4-oxadiazole (0.873 g, 84% yield) as oily substance: NMR(CDCl3)δ 1.66(d)+1.77(d) (3H), 2.98(s, 6H), 4.20(m, 1H), 7.22-7.55(m, 9H) ppm; IR(neat) 3700-3100, 1600, 1405 cm-1.

reactant | 3-dimethylamino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole | 3.11 mmol, 1.0 g | CN(C1=NOC(=N1)C(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C19H19N3O2
reactant | hydroxylamine hydrochloride | 3.45 mmol, 0.25 g | Cl.NO
reactant | sodium hydroxide | 9.5 mmol, 0.40 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 3-dimethylamino-5-(1-(3-(α-hydroxyiminobenzyl)phenyl)ethyl)-1,2,4-oxadiazole | 0.873 g, 84% yield | CN(C1=NOC(=N1)C(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=NO)C | C19H20N4O2
